US05616579
85(a) N-[4-(4-Piperidinomethyl-2-pyridyloxy)-cis-2-butenyl]-4-(acetylthio)butyramide
0.50 g of sodium hydride (as a 55% w/w dispersion in mineral oil) was added to 80 ml of dimethylformamide under an atmosphere of nitrogen gas, and then 10 ml of a dimethylformamide solution containing 0.81 ml of thioacetic acid was added to the resulting mixture. The mixture was then stirred at room temperature for 30 minutes. At the end of this time, 30 ml of a dimethylformamide solution containing 3.79 g of N-[4-(4-piperidinomethyl-2-pyridyloxy)-cis-2-butenyl]-4-chlorobutyramide (prepared as described in Preparation 2) were added to the mixture, and the mixture was stirred at room temperature for 2 hours. Ethyl acetate was then added to the reaction mixture, which was then washed with a saturated aqueous solution of sodium hydrogencarbonate and water. The solvent was removed by distillation under reduced pressure, and the residue was purified by column chromatography through silica gel, using a 1:19 by volume mixture of methanol and ethyl acetate as the eluent, to give 5.04 g (a quantitative yield) of the title compound as an oil.

reactant | sodium hydride | 0.50 g | [H-].[Na+]
reactant | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | thioacetic acid | 0.81 ml | C(C)(=S)O | C2H4OS
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | N-[4-(4-piperidinomethyl-2-pyridyloxy)-cis-2-butenyl]-4-chlorobutyramide | 3.79 g | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CNC(CCCCl)=O | C19H28ClN3O2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-(4-Piperidinomethyl-2-pyridyloxy)-cis-2-butenyl]-4-(acetylthio)butyramide | quantitative yield | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CNC(CCCSC(C)=O)=O | C21H31N3O3S
